US07619050B2
Acrylic acid 2-(2-{N-tert-butyl-N-[1-(diethoxy-phosphoryl)-2,2-dimethyl-propyl]-aminooxy}-propionylamino)-ethyl ester (Compound 7, Tab. 1)
In analogy to Example 3C) are reacted 8.43 g (0.0205 mol) (1-{tert-butyl-[1-(2-hydroxy-ethylcarbamoyl)-ethoxy]-amino}-2,2-dimethyl-propyl)-phosphonic acid diethyl ester, 2.08 g (0.025 mol) acryloylchloride and 3.2 ml (0.025 mol) triethylamine to afford the title compound as two diastereomers: 4.79 g of a colorless oil and 3.5 g of a white solid, mp 95-98° C.

reactant | (1-{tert-butyl-[1-(2-hydroxy-ethylcarbamoyl)-ethoxy]-amino}-2,2-dimethyl-propyl)-phosphonic acid diethyl ester | 0.0205 mol, 8.43 g | C(C)OP(OCC)(=O)C(C(C)(C)C)N(OC(C)C(NCCO)=O)C(C)(C)C | C18H39N2O6P
reactant | acryloylchloride | 0.025 mol, 2.08 g | C(C=C)(=O)Cl | C3H3ClO
reactant | triethylamine | 0.025 mol, 3.2 ml | C(C)N(CC)CC | C6H15N
product | Acrylic acid 2-(2-{N-tert-butyl-N-[1-(diethoxy-phosphoryl)-2,2-dimethyl-propyl]-aminooxy}-propionylamino)-ethyl ester | C(C)(C)(C)N(OC(C(=O)NCCOC(C=C)=O)C)C(C(C)(C)C)P(=O)(OCC)OCC | C21H41N2O7P
